US05576343
5.2 g of sodium hydroxide was dissolved in 30 ml of water, and the solution was cooled to a temperature of 0° C. or below. With stirring, to this were added dropwise 2.7 ml of bromine and then 40 ml of a dioxane solution containing 4.14 g of 3-acetyl-2-[2-(4-methoxyphenyl)ethyl]-5-benzofurancarbonitrile obtained in the above step d). The resulting mixture was stirred at 0° C. for 45 minutes with ice cooling for 1 hour. The resulting reaction solution was mixed with water, adjusted to pH 2 with concentrated hydrochloric acid, and then extracted with chloroform. The resulting organic layer was washed with water and dried to distill off the solvent. Thereafter, the resulting residue was purified by subjecting it to silica gel column chromatography using chloroform as an eluant, thereby obtaining 1.44 g of 5-cyano-2-[2-(4-methoxyphenyl)ethyl]-3-benzofurancarboxylic acid.

reactant | sodium hydroxide | 5.2 g | [OH-].[Na+]
reactant | bromine | 2.7 ml | BrBr | Br2
reactant | 3-acetyl-2-[2-(4-methoxyphenyl)ethyl]-5-benzofurancarbonitrile | 4.14 g | C(C)(=O)C1=C(OC2=C1C=C(C=C2)C#N)CCC2=CC=C(C=C2)OC | C20H17NO3
reactant | hydrochloric acid | Cl | ClH
solvent | water | 30 ml | O | H2O
solvent | dioxane | 40 ml | O1CCOCC1 | C4H8O2
product | 5-cyano-2-[2-(4-methoxyphenyl)ethyl]-3-benzofurancarboxylic acid | 1.44 g | C(#N)C=1C=CC2=C(C(=C(O2)CCC2=CC=C(C=C2)OC)C(=O)O)C1 | C19H15NO4
